US04505905
3-(2'-Acetamidoethylthio)-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic Acid, 1-Naphthylmethyl Ester (28)
A solution of 100 mg of 3-(2'-acetamidoethylthio)-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid in 5 mL of a mixture of ethylacetate and methanol was treated with a slight excess of α-naphthyldiazomethane. After the solution was stirred for 1 hr and then concentrated on a rotary evaporator, the crude product was purified by preparative thin layer chromatography on a 20×20×0.2 cm silica gel plate eluted with 5% methanol in methylene chloride affording 130 mg (85.5%) of 3-(2'-acetamidoethylthio)7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, 1-naphthylmethyl ester, as a glass. IR (neat): 3200, 1780, 1690, 1660 cm-1 ; NMR (220 MHz; CDCl3): δ 1.86 (3H, s), 2.6-3.0 (5H, m), 3.0-3.5 (4H, m), 4.43 (1H, m), 5.61 (1H, d, J=18), 5.64 (1H, d, J=18 ), 6.30 (1H, m), and 7.3-8.2 (7H, m); MS (chemical ionization) confirmed molecular weight of 409.

reactant | 3-(2'-acetamidoethylthio)-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid | 100 mg | C(C)(=O)NCCSC1=C(C2C(CC2C1)=O)C(=O)O | C12H15NO4S
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
reactant | α-naphthyldiazomethane | C1(=CC=CC2=CC=CC=C12)C=[N+]=[N-] | C11H8N2
solvent | methanol | CO | CH4O
product | 3-(2'-Acetamidoethylthio)-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic Acid, 1-Naphthylmethyl Ester | C(C)(=O)NCCSC1=C(C2C(CC2C1)=O)C(=O)OCC1=CC=CC2=CC=CC=C12 | C23H23NO4S
